US04284582
A mixture of ethyl cyanoacetate (12.44 parts), 1,1-dichloro-3,4-dibromo-4-methylpent-1-ene (31.1 parts), cupric acetate monohydrate (20 parts), benzyltriethylammonium chloride (4.54 parts) and water (100 parts) is stirred at 95°-100° C. for 6 hours. The mixture is cooled and diluted with water (100 parts and toluene (100 parts by volume), and filtered to remove insoluble material. The filter-cake is washed twice with toluene (20 parts by volume) and twice with water (50 parts). The filtrates and washes are separated and the toluene layer is washed with concentrated hydrochloric acid (50 parts by volume) diluted with water (50 parts) and then four times with water (50 parts). The toluene is removed by evaporation under reduced pressure to give ethyl 1-cyano-3-(2',2'-dichlorovinyl)-2,2-dimethylcyclopropane-1-carboxylate, strength 53.3% and cis-cyano:trans-cyano ratio 69.2:30.8 in 31.2% yield.

reactant | ethyl cyanoacetate | C(#N)CC(=O)OCC | C5H7NO2
reactant | 1,1-dichloro-3,4-dibromo-4-methylpent-1-ene | ClC(=CC(C(C)(C)Br)Br)Cl | C6H8Br2Cl2
catalyst | benzyltriethylammonium chloride | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | ethyl 1-cyano-3-(2',2'-dichlorovinyl)-2,2-dimethylcyclopropane-1-carboxylate | 31.2% yield | C(#N)C1(C(C1C=C(Cl)Cl)(C)C)C(=O)OCC | C11H13Cl2NO2
